US06664259B2
N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-cyclobutyl urea
Under Ar, the mixture of cyclobutanecarboxylic acid (250 mg, 2.50 mmol), diphenylphosphoryl azide (756 mg, 2.74 mmol), and triethyl amine (0.38 mL, 2.74 mmol) in 3 mL of N,N-dimethyl-formamide was heated to 80° C. for 2 hours. The mixture was cooled to room temperature, 3-amino-6-chloro-2hydroxybenzenesulfonamide (556 mg, 2.50 mmol) was added. The resulting mixture was stirred at room temperature for 20 hours. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (137 mg, 17%). LC-MS (m/z) 320.0 (M+).

reactant | cyclobutanecarboxylic acid | 2.50 mmol, 250 mg | C1(CCC1)C(=O)O | C5H8O2
reactant | diphenylphosphoryl azide | 2.74 mmol, 756 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 2.74 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-6-chloro-2hydroxybenzenesulfonamide | 2.50 mmol, 556 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
solvent | N,N-dimethyl-formamide | 3 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-cyclobutyl urea | 137 mg, 17% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1CCC1)O | C11H14ClN3O4S
